US06124323
4-(4-Methylbenzyl)-1-(2-(2-hydroxynaphth-6-oxy)ethyl)piperidine
The title compound was prepared from 4-(4-Methylbenzyl)-piperidine and and 2-benzyloxy-6-(2-bromo-ethoxy)-naphthalene and potassium carbonate in two steps as a solid, mp 164-166° C. Analysis calculated for CH25H29O2 : C, 79.96; H, 7.78; N, 3.73. Found: C, 79.63; H, 7.84; N, 3.67.

reactant | 4-(4-Methylbenzyl)-piperidine | CC1=CC=C(CC2CCNCC2)C=C1 | C13H19N
reactant | 2-benzyloxy-6-(2-bromo-ethoxy)-naphthalene | C(C1=CC=CC=C1)OC1=CC2=CC=C(C=C2C=C1)OCCBr | C19H17BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-(4-Methylbenzyl)-1-(2-(2-hydroxynaphth-6-oxy)ethyl)piperidine | CC1=CC=C(CC2CCN(CC2)CCOC=2C=C3C=CC(=CC3=CC2)O)C=C1 | C25H29NO2
